US09238647B2
Step G: 7-(4-Fluorophenyl)-3-(2-hydroxy-2-methylpropyl)-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxamide
To a mixture of 7-(4-fluorophenyl)-3-(2-hydroxy-2-methylpropyl)-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylic acid (40 mg, 0.069 mmol), (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine hydrochloride (13.6 mg, 0.083 mmol), 1-hydroxy-7-azabenzotriazol (1.88 mg, 0.014 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (23.2 mg, 0.121 mmol) was added N,N-dimethylformamide (0.138 mL) followed by triethylamine (0.048 mL, 0.346 mmol). Reaction heated at 50° C. for 1.5 h. Reaction cooled and filtered. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% TPA) gave the title compound (12.5 mg): LC-MS [M+1]=454.4; HRMS [M+1] found=454.1884; 1H NMR (500 MHz, CHCl3-d): δ 7.65 (1H, s), 7.51-7.47 (3H, m), 7.22-7.15 (2H, m), 6.97 (1H, d, J=7.81 Hz), 5.60-5.52 (1H, m), 3.85 (2H, s), 3.12 (1H, s), 2.35 (3H, s), 1.69 (3H, d, J=7.10 Hz), 1.29 (6H, s).

reactant | 7-(4-fluorophenyl)-3-(2-hydroxy-2-methylpropyl)-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylic acid | 0.069 mmol, 40 mg | FC1=CC=C(C=C1)C1=CC(=CC2=C1NC(N2CC(C)(C)O)=O)C(=O)O | C18H17FN2O4
reactant | (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine hydrochloride | 0.083 mmol, 13.6 mg | Cl.CC1=NOC(=N1)[C@@H](C)N
reactant | 1-hydroxy-7-azabenzotriazol | 0.014 mmol, 1.88 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.121 mmol, 23.2 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.346 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.138 mL | CN(C=O)C | C3H7NO
product | 7-(4-Fluorophenyl)-3-(2-hydroxy-2-methylpropyl)-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxamide | 12.5 mg | FC1=CC=C(C=C1)C1=CC(=CC2=C1NC(N2CC(C)(C)O)=O)C(=O)N[C@H](C)C2=NC(=NO2)C | C23H24FN5O4
